US06933311B2
ethyl 2-(5-isoquinolinyl)propanoate
Lithium diisopropylamide (12.75 mL, 2M, 25.5 mmol) in THF (160 mL) at −78° C. under nitrogen was treated with ethyl 5-isoquinolinylacetate (5.00 g, 23.2 mmol) in THF (5 mL). After stirring for 30 minutes at −78° C., the mixture was treated with HMPA (5.2 mL) and methyl iodide (1.62 mL, 25.5 mmol). After stirring for 30 minutes at −78° C., the mixture was warmed to 0° C. over 1 hour and quenched by addition of saturated NH4Cl solution. The mixture was concentrated under reduced pressure to a volume of ˜10 mL, diluted with ethyl acetate (200 mL), washed with water (100 mL×5), washed with brine, dried with anhydrous MgSO4, filtered, and the filtrate was concentrated under reduced pressure to provide the title compound. MS (ESI+) m/z 230 (M+H)+; MS (ESI−) m/z 228 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 1.53 (d, J 7.1, 3H), 4.35 (d, J 6.1, 2H), 4.47 (q, J 7.1, 1H), 7.18 (m, 2H), 7.70 (m, 3H), 8.05 (m, 2H), 8.53 (d, J 6.1, 1H), 8.68 (t, J 6.8, 1H), 9.32 (s, 1H); Anal. Calcd for C20H16F4N2O+1.25 HCl: C, 56.93; H, 4.12; N, 6.64. Found: C, 56.72; H, 4.45; N, 7.03.

reactant | Lithium diisopropylamide | 25.5 mmol, 2M, 12.75 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl 5-isoquinolinylacetate | 23.2 mmol, 5.00 g | C1=NC=CC2=C(C=CC=C12)CC(=O)OCC | C13H13NO2
reactant | HMPA | 5.2 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | methyl iodide | 25.5 mmol, 1.62 mL | CI | CH3I
solvent | THF | 160 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ethyl 2-(5-isoquinolinyl)propanoate | C1=NC=CC2=C(C=CC=C12)C(C(=O)OCC)C | C14H15NO2
